US07528143B2
N-(3-tert-Butylphenyl)-2-chloro-5-methylpyrimidin-4-amine (Intermediate 41)
A mixture of 2-chloro-5-methylpyrimidin-4-amine (670 mg, 4.7 mmol), 1-tert-butyl-3-bromobenzene (1.5 g, 7 mmol), Pd2(dba)3 (366 mg, 0.4 mmol), Xantphos (695 mg, 1.2 mmol) and cesium carbonate (6.2 g, 19 mmol) was suspended in dioxane (150 mL) and heated at reflux under the argon atmosphere for 20 h. The mixture was filtered and the filtrate concentrated in vacuo. The residue was dissolved in EtOAc (10 mL) and added hexanes (100 mL). The solid was collected by filtration and washed with hexanes to afford the crude title compound (1.2 g, 99%) as a yellow solid.

reactant | 2-chloro-5-methylpyrimidin-4-amine | 4.7 mmol, 670 mg | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | 1-tert-butyl-3-bromobenzene | 7 mmol, 1.5 g | C(C)(C)(C)C1=CC(=CC=C1)Br | C10H13Br
reactant | Xantphos | 1.2 mmol, 695 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 19 mmol, 6.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.4 mmol, 366 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(3-tert-Butylphenyl)-2-chloro-5-methylpyrimidin-4-amine | 1.2 g, 99% | C(C)(C)(C)C=1C=C(C=CC1)NC1=NC(=NC=C1C)Cl | C15H18ClN3
